data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "Cc1cc(Cl)ccc1C1(O)C(=O)CC2CCC1(C)C2(C)C.[H+]", "products": "Cc1cc(Cl)ccc1C1([OH2+])C(=O)CC2CCC1(C)C2(C)C"}, {"reactants": "Cc1cc(Cl)ccc1C1([OH2+])C(=O)CC2CCC1(C)C2(C)C", "products": "Cc1cc(Cl)ccc1[C+]1C(=O)CC2CCC1(C)C2(C)C.O"}, {"reactants": "Cc1cc(Cl)ccc1[C+]1C(=O)CC2CCC1(C)C2(C)C", "products": "Cc1cc(Cl)ccc1C12CCC(CC1=O)C(C)(C)[C+]2C"}, {"reactants": "Cc1cc(Cl)ccc1C12CCC(CC1=O)C(C)(C)[C+]2C", "products": "CC1=C(c2ccc(Cl)cc2C)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2ccc(Cl)cc2C)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2ccc(Cl)cc2C)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2ccc(Cl)cc2C)CCC(C(=O)[OH2+])C1(C)C", "products": "Cc1cc(Cl)ccc1C1CCC(C(=O)O)C(C)(C)[C+]1C"}, {"reactants": "Cc1cc(Cl)ccc1C1CCC(C(=O)O)C(C)(C)[C+]1C", "products": "Cc1cc(Cl)ccc1C1CCC2C(=O)[OH+]C1(C)C2(C)C"}, {"reactants": "Cc1cc(Cl)ccc1C1CCC2C(=O)[OH+]C1(C)C2(C)C", "products": "Cc1cc(Cl)ccc1C1CCC2C(=O)OC1(C)C2(C)C.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "COC12COC(O1)C(OS(=O)(=O)c1ccc(C)cc1)C(OS(=O)(=O)c1ccc(C)cc1)C2OS(=O)(=O)c1ccc(C)cc1.[O-]C", "products": "COC12COC(C=C(OS(=O)(=O)c3ccc(C)cc3)C1OS(=O)(=O)c1ccc(C)cc1)O2"}, {"reactants": "COC12COC(C=C(OS(=O)(=O)c3ccc(C)cc3)C1OS(=O)(=O)c1ccc(C)cc1)O2.[O-]C", "products": "COC12COC(C=C([O-])C1OS(=O)(=O)c1ccc(C)cc1)O2"}, {"reactants": "COC12COC(C=C([O-])C1OS(=O)(=O)c1ccc(C)cc1)O2", "products": "COC12COC(O1)C1C(=O)C12"}, {"reactants": "COC12COC(O1)C1C(=O)C12.[O-]C", "products": "COC12COC(O1)C1C2C1([O-])OC"}, {"reactants": "COC12COC(O1)C1C2C1([O-])OC.CO", "products": "COC(=O)C1CC2(OC)COC1O2"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "COc1cccc(C)c1C1(O)C(=O)CC2CCC1(C)C2(C)C.[H+]", "products": "COc1cccc(C)c1C1([OH2+])C(=O)CC2CCC1(C)C2(C)C"}, {"reactants": "COc1cccc(C)c1C1([OH2+])C(=O)CC2CCC1(C)C2(C)C", "products": "COc1cccc(C)c1[C+]1C(=O)CC2CCC1(C)C2(C)C.O"}, {"reactants": "COc1cccc(C)c1[C+]1C(=O)CC2CCC1(C)C2(C)C", "products": "COc1cccc(C)c1C12CCC(CC1=O)C(C)(C)[C+]2C"}, {"reactants": "COc1cccc(C)c1C12CCC(CC1=O)C(C)(C)[C+]2C", "products": "COc1cccc(C)c1C1=C(C)C(C)(C)C(C#[O+])CC1"}, {"reactants": "COc1cccc(C)c1C1=C(C)C(C)(C)C(C#[O+])CC1.O", "products": "COc1cccc(C)c1C1=C(C)C(C)(C)C(C(=O)[OH2+])CC1"}, {"reactants": "COc1cccc(C)c1C1=C(C)C(C)(C)C(C(=O)[OH2+])CC1", "products": "COc1cccc(C)c1C1CCC(C(=O)O)C(C)(C)[C+]1C"}, {"reactants": "COc1cccc(C)c1C1CCC(C(=O)O)C(C)(C)[C+]1C", "products": "COc1cccc(C)c1C1CCC2C(=O)[OH+]C1(C)C2(C)C"}, {"reactants": "COc1cccc(C)c1C1CCC2C(=O)[OH+]C1(C)C2(C)C", "products": "COc1cccc(C)c1C1CCC2C(=O)OC1(C)C2(C)C.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Clc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)cc1", "products": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2ccc(Cl)cc2)CC1"}, {"reactants": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2ccc(Cl)cc2)CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(Cl)cc1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(Cl)cc1", "products": "O=C1CCN2C[C@H](OCc3ccc(Cl)cc3)[C@@H](OCc3ccccc3)[C@@H]2C1"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)C)c([Si](C)(C)C)c(OC)c21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)C)c(OC)c1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)C)c(OC)c1=C", "products": "COc1c2c(cc([Si](C)(C)C)c1[Si](C)(C)C)[C@H]1CC[C@]3(C)C(=O)CC[C@H]3[C@@H]1CC2"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CC(OC)C1OC.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CC(OC)C1OC.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CC(OC)C1OC", "products": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)CC(OC)C2OC.[Rh]"}, {"reactants": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)CC(OC)C2OC", "products": "CCC12C(=O)C3(C(=O)OC)OC14N(CC(OC)C2OC)C(=O)CC41c2ccccc2N(C)C31"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "COc1ccc(Cl)cc1CO[C@@H]1[C@@H](OCc2ccccc2)CN2OC3(CC3)C[C@H]12", "products": "COc1ccc(Cl)cc1CO[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1"}, {"reactants": "COc1ccc(Cl)cc1CO[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cc(Cl)ccc1OC"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cc(Cl)ccc1OC", "products": "COc1ccc(Cl)cc1CO[C@H]1CN2CCC(=O)C[C@H]2[C@@H]1OCc1ccccc1"}]}
